US04168218
Synthesis of decafluorobenzopinacol
Pentafluorobenzophenone (10.4 g) was dissolved in 250 ml of benzene/isopropanol (3.5:1). The solution was purged with nitrogen and irradiated for 6 hours with a Hanovia 450-watt Hg-arc lamp. The solvent was removed using a vacuum evaporator at a temperature less than 40° C. The crystallized product was washed twice with 25 ml of n-pentane. The slurry was centrifuged and n-pentane was decanted. The product was spread on a watch glass and air dried. Recovery of 2,3,4,5,6,2',3',4',5',6'-decafluorobenzopinacol was 9.1 g or 87.5%.

reactant | Pentafluorobenzophenone | 10.4 g | FC1=C(C(=C(C(=C1C(=O)C1=CC=CC=C1)F)F)F)F | C13H5F5O
solvent | benzene isopropanol | 250 ml | C1=CC=CC=C1.C(C)(C)O
product | decafluorobenzopinacol | FC1=C(C(=C(C(=C1C(C1=C(C(=C(C(=C1F)F)F)F)F)(O)C(O)(C1=CC=CC=C1)C1=CC=CC=C1)F)F)F)F | C26H12F10O2
